US06326398B1
A mixture of 3-methyl-4-fluorophenol (99 mg, 0.79 mmol), potassium hydroxide (53 mg, 0.94 mmol), 4-iodo-3,5-dichloro-nitrobenzene (250 mg, 0.79 mmol) and 4A° molecular sieves (75 mg) in N-methylpyrolidinone (3 mL) was stirred at 130° C. for 2 h. The reaction mixture was poured into ice cold 1 N HCI (20 mL) and EtOAc (25 mL) was added. The EtOAc phase was separated and washed with 1 N HCI (3×25 mL) and brine (25 mL). The EtOAc solution was dried over Na2SO4, filtered and concentrated. The residue was purified by preparative TLC (Hexanes: CH2CI2=7:3) to afford 3,5-dichloro-4-(4-fluoro-3-methyl-phenoxy)-nitrobenzene (207 mg). MS Calc.: 315.0 Found: 315.0 (M).

reactant | 3-methyl-4-fluorophenol | 0.79 mmol, 99 mg | CC=1C=C(C=CC1F)O | C7H7FO
reactant | potassium hydroxide | 0.94 mmol, 53 mg | [OH-].[K+]
reactant | 4-iodo-3,5-dichloro-nitrobenzene | 0.79 mmol, 250 mg | IC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C6H2Cl2INO2
reactant | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | N-methylpyrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | 3,5-dichloro-4-(4-fluoro-3-methyl-phenoxy)-nitrobenzene | 207 mg | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)F)C)Cl)[N+](=O)[O-] | C13H8Cl2FNO3
